Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Nifedipine Er / Amitriptyline / Prilosec Otc / Terazosin / 
Amlodipine / Atenolol / Oxybutynin / Hydrochlorothiazide
 
Attending: ___
 
Chief Complaint:
failure to thrive
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is an ___ year old ___ speaking woman sent in 
by her PCP for further management of multiple issues, chiefly 
gait instability, headaches, and poor PO intake.
.
At baseline, Ms. ___ ambulates with a walker. She does 
report several falls over the last year, last more than one 
month prior to today's visit. She denies any loss of 
consciousness of prodromal symptoms such as chest discomfort or 
palpitations. No focal weakness, sensory loss, or tremor.
.
Of note, she has not been eating well due to a poor appetite. 
She denies any abdominal pain, nausea, vomiting, diarrhea, 
melena or hematochezia. No other bleeding. Her only other new 
medication has been restarting lisinopril within the last month.
.
Her headaches have been an issue for her over the last year. She 
describes these as originating from her right ear and extending 
over her scalp. They are intermittent and somewhat responsive to 
tylenol. No associated visual complaints, n/v, jaw or tongue 
claudication. She thinks the headaches are related to her 
chronic right ear problems (extensively worked up by ENT).
.
In the ED, initial vs were: 97.2 55 166/47 18 97. Patient c/o 
headaches x ___ year. Guiac negative. CXR unremarkable, EKG showed 
sinus brady unchanged from before. No orthostatics checked. 
Patient was given 500cc of saline. Vitals prior to transfer 96.3 
57 174/52 18, 100% 2L NC.
.
On the floor, her headache is ___ in intensity. She has no 
other major complaints. 
 
Past Medical History:
HTN
Hyperlipidemia
CAD
Headaches
Nephrolithiasis
Cataracts
Otitis media
Syncope ?sick sinus syndrome
s/p CCY 
 
Social History:
___
Family History:
Mother deceased at age ___ from breast cancer.
Father deceased at age ___. Son deceased at age ___ from heart
attack. 
 
Physical Exam:
Vitals 97.3 54 146/58 18 100% on RA
HEENT NC/AT, PEARL, EOMI, dry MM. Right TM with small amount of 
white ?exudate, left TM with ?perforation
Neck Supple, no JVD
Pulm Lungs clear bilaterally, no rales or wheezing
CV Bradycardic S1 S2 soft systolic murmur at apex
Abd Soft nontender +bowel sounds. Guiac negative in ER.
Extrem Warm no edema palpable distal pulses
Derm Skin warm, no rash
Neuro Alert, answering appropriately, attentive. CN ___, 
strength, and sensation to light touch intact. No tremor, no 
cogwheeling. No dysmetria. Initially patient refused to stand up 
because feeling dizzy. Next AM, gait revealed short steps, no 
shuffling w/ walker, negative Romberg's
 
Pertinent Results:
Labs on admission:

___ 08:00PM   GLUCOSE-103* UREA N-16 CREAT-1.0 SODIUM-127* 
POTASSIUM-4.7 CHLORIDE-92* TOTAL CO2-26 ANION GAP-14
___ 08:00PM   TOT PROT-5.8* ALBUMIN-3.9 GLOBULIN-1.9* 
CALCIUM-10.7*
___ 12:05PM   WBC-5.0 RBC-3.72* HGB-9.9* HCT-30.2* MCV-81* 
MCH-26.7* MCHC-33.0 RDW-16.2*
___ 12:05PM   NEUTS-73.2* ___ MONOS-6.6 EOS-0.8 
BASOS-0.3
___ 12:05PM   PLT COUNT-161
___ 12:05PM   TSH-2.0
___ 12:05PM   VIT B12-468
___ 12:05PM   CALCIUM-10.4* PHOSPHATE-2.6* MAGNESIUM-1.8
___ 12:05PM   ALT(SGPT)-13 AST(SGOT)-17 ALK PHOS-59 TOT 
BILI-0.4
___ 02:44PM URINE  U-PEP-NEGATIVE F
___ 01:26PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG

Micro:
URINE CULTURE (Final ___:    <10,000 organisms/ml. 

Reports:
CXR: IMPRESSION: No acute cardiopulmonary abnormality.

ECG:
Sinus bradycardia. The P-R interval is prolonged. Left axis 
deviation.
There is non-specific intraventricular conduction delay. There 
are Q waves
in the lateral leads consistent with prior myocardial 
infarction. Left
ventricular hypertrophy with associated ST-T wave changes, 
although ischemia or myocardial infarction cannot be excluded. 
Compared to the previous tracing right bundle-branch block is no 
longer present.

Repeat Ecg:
Sinus bradycardia with prominent sinus arrhythmia. The P-R 
interval is
prolonged. Left axis deviation. Non-specific intraventricular 
conduction
delay. There are Q waves in the lateral leads consistent with 
prior myocardial infarction. Left ventricular hypertrophy with 
associated ST-T wave changes, although ischemia or myocardial 
infarction cannot be excluded. Compared to the previous tracing 
there is no significant change.
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with history of falls, 
chronic headaches, and poor oral intake who is admitted for 
failure to thrive.
.
* Gait instability
This is probably multifactorial. Dehydration was a significant 
factor upon admission. Her hyponatremia, likely hypovolemic in 
etiology, may also have been relevant to her overall sense of 
weakness. Though she was admitted with concern for possible 
Parkinsons, she does not have any clear exam findings to suggest 
this such as tremor or cogwheeling. NPH is worth considering, 
but seems less likely. There may be a vestibular component of 
her gait instability as well, especially given her multiple ENT 
procedures. She has outpatient neurology follow-up scheduled. A 
cardiac contribution was considered given her history of prior 
syncope with question of sick sinus syndrome. After fluid 
resuscitation, patient no longer orthostatic and Na trending up. 
She was evaluated by physical therapy who felt that it was safe 
for her to go home with physical therapy. 

.
* Hyponatremia
By history, likely hypovolemic in etiology and improving on 
discharge. HCTZ could be contributory, and was held on discharge 
as patient appeared euvolemic with good BP control off the HCTZ. 
 Patient stated her appetite was better on discharge (possible 
hyponatremia was contributing).

.
* Bradycardia
Prior cardiac workup raised question of sick sinus syndrome, and 
patient had bradycardic rate, <2 second pauses on tele. TSH was 
within normal limits. Outpatient cardiology follow-up is 
scheduled with Dr. ___.
.
# Noncardiac Chest pain
On evening of admission, patient c/o left sided stabbing pain 
under her rib, worse when she pressed on it and also following a 
meal. No N/V/SOB/diaphoresis/radiation. She was ruled out for MI 
with serial unchanged ECGs, two sets negative CE. Her pain 
resolved with maalox and tylenol and did not return.

.
* Headaches
Appears to be consistent with her chronic headache syndrome, 
thought to be cervical in etiology by neurology. History less 
suggestive of other etiologies such as migraine, tension, or 
even temporal arteritis (but ESR was 3). Continued soft cervical 
collar at night per neuro recs. Pain resolved with tylenol.

.
* Anemia
Seen by ___ as an outpatient, felt to be related to CRI and 
some degree of iron deficiency. Gets regular epo and iron 
infusions. No history of recent gross bleeding.
 B12, folate, retic, RBC morph, SPEP/UPEP all wnl. No guaiac 
positive stools during hospitalization.
.
* Hypertension
In setting of dehydration, held ACEI and HCTZ. HCTZ held on 
discharge as above. SBP's in 130's at time of discharge. In 
outpatient setting might consider adding amlodipine. She did not 
have a true allergy to CCBs, only peripheral edema.
.
* CAD. Continued ASA and statin. Not on BB as outpatient, and 
continued to hold as she was mildly bradycardic.

 
Medications on Admission:
Hydrochlorothiazide 12.5 mg on ___,
and ___ only. Oxybutynin 5 mg at night, Protonix 40 mg daily,
simvastatin 10 mg daily, aspirin 81 mg daily, Colace 400 mg
daily, multivitamin with iron daily.
 
Discharge Medications:
1. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
2. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
4. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day): Hold for loose stools.  
5. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. Oxybutynin Chloride 5 mg Tab,Sust Rel Osmotic Push 24hr Sig: 
One (1) Tab,Sust Rel Osmotic Push 24hr PO once a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
1. Dehydration
2. Gait instability
3. Failure to thrive
4. Noncardiac chest pain

SECONDARY DIAGNOSES:
Hypertension
Hyperlipidemia
Coronary artery disease
Chronic headaches
Nephrolithiasis
Cataracts

 
Discharge Condition:
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - requires assistance or aid (walker 
or cane)

 
Discharge Instructions:
You were admitted to the hospital on ___ with balance 
difficulty and dehydration. You were given intravenous fluids 
with improvement. You were seen by the physical therapists who 
recommended that you continue working with physical therapy at 
home in order to work on your strength and balance. You were 
also having chest pain, but this resolved with maalox and your 
heart tests were normal.

STOP taking hydrochlorothiazide. None of your other medications 
were changed.
 
Followup Instructions:
___